US04146713
3-Methyl-3-morpholino-2-cyanoacrylamide
A stirred mixture of cyanoacetamide (84 g.), triethylorthoacetate (178 g.) and morpholine (108 g.) was heated under reflux for 3 hours. The initial reflux temperature was 104° C. and the final reflux temperature was 89° C. At the end of the reflux period acetonitrile (50 ml.) was added, the mixture was cooled at 25° C., the crystalline precipitate was collected, and washed with 2 × 100 ml. of cold ethanol. Weight = 104.7 g. Yield = 53%. A sample was recrystallized from ethanol as white needles m.p. 173°-174.5° C.

reactant | cyanoacetamide | 84 g | C(#N)CC(=O)N | C3H4N2O
reactant | triethylorthoacetate | 178 g | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | morpholine | 108 g | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Methyl-3-morpholino-2-cyanoacrylamide | Yield = 53% | CC(=C(C(=O)N)C#N)N1CCOCC1 | C9H13N3O2
